US05350760
Isophthalaldehyde (150 g, 1.1 mole) was dissolved in THF (1 L) and EtOH (1 L) at 0° C. NaBH4 (11.0 g, 291 mmol) was added portionwise and the mixture stirred 1 hour at 0° C. Addition of 25% aq. NH4OAc and extraction with EtOAc (2×) followed by purification by flash chromatography (20% to 40% EtOAc in hexanes) yielded 60 g of 3-(hydroxymethyl)benzaldehyde.

reactant | Isophthalaldehyde | 1.1 mole, 150 g | C(C1=CC(C=O)=CC=C1)=O | C8H6O2
reactant | EtOH | 1 L | CCO | C2H6O
reactant | NaBH4 | 291 mmol, 11.0 g | [BH4-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | 3-(hydroxymethyl)benzaldehyde | 60 g | OCC=1C=C(C=O)C=CC1 | C8H8O2
